US09388185B2
5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)-N,N-dimethylpicolinamide
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxamide (from PepTech Corp. Encyclopedia of Amino Acid Analogs and Boronic Acids). LCMS calculated for C24H26N5O3 (M+H)+: m/z=432.2. Found 432.1.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | N,N-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-2-carboxamide | CN(C(=O)C1=NC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C14H21BN2O3
product | 5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)-N,N-dimethylpicolinamide | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C=3C=CC(=NC3)C(=O)N(C)C)C=C(C1)OC | C24H25N5O3
